US07319104B2
To a solution of 4-methoxyphenyl acetic acid (5 g; 30.08 mmol) in 30 ml of dichloromethane, under nitrogen, it was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (6.34 g; 33.09 mmol) in small portions. After 10 minutes 2-aminopyridine (2.83 g; 30.08 mmol) was added and stirred for 4 hours at rt. The reaction mixture was concentrated and partitioned between ethyl acetate and 0.5N HCl. The organic phase was washed with 0.5N HCl (2×) and 0.5N NaOH (2×). The pH of the acidic/aqueous phase was adjusted to ˜7 with 0.5N NaOH and extracted twice with ethyl acetate. The basic/aqueous phase was also extracted twice with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate and concentrated to afford 2-(4-methoxyphenyl)-N-pyridin-2-ylacetamide (7 g; 92% yield), which was used in the next step without further purification. MS: m/z 243 (M+1).

reactant | 4-methoxyphenyl acetic acid | 30.08 mmol, 5 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 33.09 mmol, 6.34 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 2-aminopyridine | 30.08 mmol, 2.83 g | NC1=NC=CC=C1 | C5H6N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(4-methoxyphenyl)-N-pyridin-2-ylacetamide | 7 g, 92% yield | COC1=CC=C(C=C1)CC(=O)NC1=NC=CC=C1 | C14H14N2O2
